US05420132
Add 0.98 mmol of 60% sodium hydride suspended in oil to a solution of 0.82 mmol of 6-hydroxy-2-{4-[bis-(4-fluorophenyl)methyl]piperazin-1-ylcarbonyl}-1,4-benzodioxin in 10 cm3 of N,N-dimethylformamide under a nitrogen atmosphere. Stir for 15 minutes at room temperature, then add dropwise 0.98 mmol of methyl iodide. Stir for 2 hours at room temperature and then concentrate to dryness under reduced pressure and purify the resulting crude product by chromatography on a silica column (eluant:petroleum ether/ethyl acetate, 50:50). 6-Methoxy-2-{4-[bis-(4-fluorophenyl)methyl]piperazin-1-ylcarbonyl}-1,4-benzodioxin is thereby obtained in a yield of 83%.

reactant | sodium hydride | 0.98 mmol | [H-].[Na+]
reactant | 6-hydroxy-2-{4-[bis-(4-fluorophenyl)methyl]piperazin-1-ylcarbonyl}-1,4-benzodioxin | 0.82 mmol | OC1=CC2=C(OC(=CO2)C(=O)N2CCN(CC2)C(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F)C=C1 | C26H22F2N2O4
reactant | methyl iodide | 0.98 mmol | CI | CH3I
solvent | N,N-dimethylformamide | 10 cm3 | CN(C=O)C | C3H7NO
product | 6-Methoxy-2-{4-[bis-(4-fluorophenyl)methyl]piperazin-1-ylcarbonyl}-1,4-benzodioxin | yield of 83% | COC1=CC2=C(OC(=CO2)C(=O)N2CCN(CC2)C(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F)C=C1 | C27H24F2N2O4
